US05093512
1,8-Bis(trimethylsilyl)hexadecafluorooctane
A mixture of 1,8-dibromohexadecafluorooctane (27.3 g) and the corresponding C10 derivative (4.4 g) (55.5 mmol) and trimethylsilyl chloride (54.9 g, 0.55 mol) was added to a slurry of magnesium turnings (4.11 g, 69 mmol) in THF (300 mL) over 25 minutes at -35° C. The mixture was stirred for 1.5 hours. The mixture was then allowed to warm slowly to 25° C. over 18 hours. Excess magnesium was removed by N2 pressure filtration, and most of the solvent was removed under reduced pressure. Petroleum ether (50 mL) was added, and the mixture was treated (twice) with 500 ml ice water. The organic layer was dried, stripped and kugelrohr distilled to provide 5.17 g (bp 50°-66° C., 0.05 mm; 55% of 1,8-bis(silyl) derivative, and a higher-boiling fraction, 21.4 g (bp 60°-80° C.; 82% 1,8-bis(silyl) derivative and 13% 1,10-bis(silyl) derivative; overall yield ca. 71%). 1H NMR (THF-d8): 0.30 (s). 19F NMR (THF-d8 /Freon® 11): -118.54 (s, 4F, CF2Si), -121.52 (s, 8F), -127.97 (s, 4F). GC analysis of the sample used for NMR showed a 92.4/7.6 ratio of C8 /C10 fluorocarbon products.

reactant | 1,8-dibromohexadecafluorooctane | 27.3 g | BrC(C(C(C(C(C(C(C(Br)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C8Br2F16
reactant | trimethylsilyl chloride | 0.55 mol, 54.9 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | magnesium | 69 mmol, 4.11 g | [Mg] | Mg
reactant | fluorocarbon | F[C] | CF
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 1,8-Bis(trimethylsilyl)hexadecafluorooctane | yield ca. 71% | C[Si](C(C(C(C(C(C(C(C([Si](C)(C)C)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C)C | C14H18F16Si2
